US05331007
To a solution of N-formyl-l-(3-nitrophenyl)-2-phenyl-2-propylamine (5.0g, 0.017mol) in methanol (200 ml) was added 10% Pd/C catalyst (0.5g) and the mixture hydrogenated at 50 psi in a Parr apparatus for 3 hours. The catalyst was removed by filtration and the solvent evaporated to a white solid, 4.6 g. This solid was recrystallised from isopropanol (50 ml) to give 2.6 g of N-formyl-1-(3-aminophenyl)-2-phenyl-2-propylamine, mp 114°-115° C. To a stirred solution of sodium nitrate (2.0 g,0.03 mol) in sulphuric acid (15 ml) at 0° C. under nitrogen was added dropwise a solution of N-formyl-1-(3-aminophenyl)-2-phenyl-2-propylamine (7.0 g, 0.027 mol) in acetic acid (75 ml) and the solution was stirred 2.5 hours at a temperature less than 20° C. The above mixture was added to a solution of cuprous chloride (5.3 g, 0.054 mol) in concentrated HCl (50 ml) at 15° C., and the resulting solution was stirred at that temperature for 1 hour. The reaction mixture was poured into water (500 ml), basified with concentrated ammonium hydroxide, and extracted with chloroform (3×200 ml). The combined chloroform extracts were dried over magnesium sulphate and the solvent evaporated to a solid, 7.5 g. Thissolid was recrystallised from isopropanol (20 ml) to provide 3.2 g of N-formyl-1-(3-chlorophenyl)-2-phenyl-2-propylamine, mp 108°-109° C.

reactant | N-formyl-l-(3-nitrophenyl)-2-phenyl-2-propylamine | 0.017mol, 5.0g | C(=O)NC(CC1=CC(=CC=C1)[N+](=O)[O-])(C)C1=CC=CC=C1 | C16H16N2O3
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | 0.5g | [Pd] | Pd
product | N-formyl-1-(3-aminophenyl)-2-phenyl-2-propylamine | 2.6 g | C(=O)NC(CC1=CC(=CC=C1)N)(C)C1=CC=CC=C1 | C16H18N2O
